US07820662B2
1-Cyclobutyl-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine
DIAD (440 μL, 452 mg, 2.23 mmol) was added to a cooled (ice/water) mixture of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine (472 mg, 1.81 mmol, purchased from CNH Technologies, Inc.), PS-PPh3 (Argonaut, loading 2.21 mmol/g; 1.37 g, 3.03 mmol), and cyclobutanol (160 μL, 147 mg, 2.04 mmol) in dry THF (15 mL), then the cooling bath was removed, and the mixture was vortexed at ambient temp. for 16 d. More PS-PPh3 (330 mg, 0.729 mmol), DIAD (110 μL, 113 mg, 0.56 mmol), cyclobutanol (40 μL, 37 mg, 0.51 mmol), and THF (5 mL) were added, and vortexing was continued for 4 d. The resin was filtered off, washed thoroughly with THF, and the combined filtrate and washings were concentrated. The crude material was adsorbed onto Hydromatrix and chromatographed on silica gel [Jones Flashmaster, 10 g/70 mL cartridge, eluting with CH2Cl2 (1-10)→>2% MeOH in CH2Cl2 (11-24)→2.5% MeOH (25-30)→3% MeOH (31-44)]. Fr.15-27 were combined and dried overnight in vacuo. One obtained the title compound as a white solid. This material was used in the next step without further purification. 1H NMR (CDCl3, 400 MHz): δ=1.81-2.00 (m, 2H), 2.40-2.50 (mc, 2H), 2.72-2.84 (mc, 2H), 5.28-5.38 (m, 1H), 5.89 (brs, 2H), 8.32 (s, 1H). MS (ES+): m/z 316.0 (100) [MH+]. HPLC: tR=1.9 min (OpenLynx, nonpolar—5 min), 2.7 min (OpenLynx, polar—5 min).

reactant | DIAD | 2.23 mmol, 440 μL, 452 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 1.81 mmol, 472 mg | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | PPh3 | 3.03 mmol, 1.37 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | cyclobutanol | 2.04 mmol, 160 μL, 147 mg | C1(CCC1)O | C4H8O
reactant | PPh3 | 0.729 mmol, 330 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.56 mmol, 110 μL, 113 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | cyclobutanol | 0.51 mmol, 40 μL, 37 mg | C1(CCC1)O | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-Cyclobutyl-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | C1(CCC1)N1N=C(C=2C1=NC=NC2N)I | C9H10IN5
